### PR TITLE
[Merged by Bors] - feat (MeasureTheory/Function): trivial cases of integrability / summability

### PR DESCRIPTION
**Pull request by loefflerd**
Any function on a finite type is multipliable / summable; a function on a discrete measurable space is integrable iff its norm is summable.

---

Excised from #13353
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
(just realised my PR was accidentally reverting a change someone else had made to this file in the last few days. Now fixed.)

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 1]
```diff
@@ -939,6 +939,43 @@ theorem coe_toNNReal_ae_eq {f : α → ℝ≥0∞} (hf : ∀ᵐ x ∂μ, f x < 
   simp only [hx.ne, Ne, not_false_iff, coe_toNNReal]
 #align measure_theory.coe_to_nnreal_ae_eq MeasureTheory.coe_toNNReal_ae_eq
 
+section count
+
+variable [MeasurableSingletonClass α] {f : α → β}
+
+/-- A function has finite integral for the counting measure iff its norm is summable. -/
+lemma hasFiniteIntegral_count_iff :
+    HasFiniteIntegral f Measure.count ↔ Summable (‖f ·‖) := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Function/L1Space.lean:948]: Could you provide this lemma (and the ones below) for `Measure.average` as well?

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 2]
```diff
@@ -132,6 +132,10 @@ protected theorem Set.Finite.multipliable {s : Set β} (hs : s.Finite) (f : β 
 theorem multipliable_of_finite_mulSupport (h : (mulSupport f).Finite) : Multipliable f := by
   apply multipliable_of_ne_finset_one (s := h.toFinset); simp
 
+@[to_additive]
+lemma Finite.multipliable [Finite β] (f : β → α) : Multipliable f :=
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:136]: I think
```suggestion
lemma Multipliable.of_finite [Finite β] {f : β → α} : Multipliable f :=
```
is more useful in that it lets you write `some_theorem .of_finite` to get rid of the side condition.

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/MeasureTheory/Function/L1Space.lean:948]: Actually it looks like I was misunderstanding in our zulip discussion: `MeasureTheory.average` is not a measure in its own right, but an operator on functions defined as `(μ univ).toReal⁻¹ • ∫ x, f x ∂μ`. So I think there isn't an analogue.

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/L1Space.lean:948]: Oh I see 😢

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 3]
```diff
@@ -939,6 +939,43 @@ theorem coe_toNNReal_ae_eq {f : α → ℝ≥0∞} (hf : ∀ᵐ x ∂μ, f x < 
...
+  -- Note: this proof would be much easier if we assumed `SecondCountableTopology G`. Without
+  -- this we have to justify the claim that `f` lands a.e. in a separable subset, which is true
+  -- (because summable functions have countable range) but slightly tedious to check.
+  rw [Integrable, hasFiniteIntegral_count_iff, and_iff_right_iff_imp]
+  intro hs
+  have hs' : (Function.support f).Countable := by
+    simpa only [Ne, Pi.zero_apply, eq_comm, Function.support, norm_eq_zero]
+      using hs.countable_support
+  letI : MeasurableSpace β := borel β
+  haveI : BorelSpace β := ⟨rfl⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/MeasureTheory/Function/L1Space.lean:964]: I don't think the "I" does make a difference here.
